US07491732B2
A dry reaction flask equipped with a magnetic stirring bar, nitrogen inlet and reflux condenser was charged with 2-fluoro-5-nitrotoluene (6.20 g, 40 mmol) followed by chlorosulfonic acid (10.60 mL, 160 mmol) at 0° C., and then the reaction was stirred at 100° C. for 24 hours. After cooling it to the room temperature, the reaction was poured over ice-water (Caution!) and extracted with ethyl acetate (3×200 mL). Removal solvent under a reduced pressure afforded 3-chlorosulfonyl-4-fluoro-5-methylnitrobenzene intermediate, which was stirred in EtOAc (50 mL) and NH4OH (30%, 50 mL) for 2-3 hours. The separated organic phase was then evaporated to afford a crude material, which was purified by column chromatography (silica gel, hexanes then 10-20% EtOAc in hexanes) to afford 3-aminosulfonyl-4-fluoro-5-methylnitrobenzene. LCMS: purity: 96%; MS (m/e): 235 (MH+).

reactant | 2-fluoro-5-nitrotoluene | 40 mmol, 6.20 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | chlorosulfonic acid | 160 mmol, 10.60 mL | ClS(=O)(=O)O | ClHO3S
product | 3-chlorosulfonyl-4-fluoro-5-methylnitrobenzene | ClS(=O)(=O)C=1C=C(C=C(C1F)C)[N+](=O)[O-] | C7H5ClFNO4S
